US07049310B2
Preparation of (E)-3-[6-[N-(methoxycarbonylmethyl)amino]pyridin-3-yl]-N-methyl-N-(2-methyl-1H-indol-3-ylmethyl)acrylamide
To a stirred solution of (E)-3-[6-[N-(methoxycarbonylmethyl)amino]pyridin-3-yl]acrylic acid hydrochloride salt (2.0 g, 7.3 mmole) in 1:1 DMF/CH2Cl2 (100 mL) was added 2-methyl-3-(methylaminomethyl)indole (1.3 g, 7.5 mmole), Et3N (2.1 mL, 15 mmole), and HOBt H2O (1.0 g, 7.4 mmole), followed by EDC (1.4 g, 7.3 mmole). After stirring at room temperature for 18 h the reaction was concentrated to dryness. The residue was taken up in EtOAc, and the solution was washed with H2O then brine, dried (Na2SO4), and concentrated under vacuum. The remaining residue was purified by flash chromatography on silica gel (4% MeOH/CHCl3) to give the title compound (2.08 g, 73%) as an off-white solid: MS (ES) m/e 393.2 (M+H)+.

reactant | (E)-3-[6-[N-(methoxycarbonylmethyl)amino]pyridin-3-yl]acrylic acid hydrochloride salt | 7.3 mmole, 2.0 g | Cl.COC(=O)CNC1=CC=C(C=N1)/C=C/C(=O)O
reactant | 2-methyl-3-(methylaminomethyl)indole | 7.5 mmole, 1.3 g | CC=1NC2=CC=CC=C2C1CNC | C11H14N2
reactant | Et3N | 15 mmole, 2.1 mL | CCN(CC)CC | C6H15N
reactant | HOBt H2O | 7.4 mmole, 1.0 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | EDC | 7.3 mmole, 1.4 g
solvent | DMF CH2Cl2 | 100 mL | CN(C)C=O.C(Cl)Cl
product | (E)-3-[6-[N-(methoxycarbonylmethyl)amino]pyridin-3-yl]-N-methyl-N-(2-methyl-1H-indol-3-ylmethyl)acrylamide | 2.08 g, 73% | COC(=O)CNC1=CC=C(C=N1)/C=C/C(=O)N(CC1=C(NC2=CC=CC=C12)C)C | C22H24N4O3
